data/specific_train_final.csv
"c1ccccc1C(CO)O[O:10].[N:20]=[O]>>c1ccccc1C(CO)O[O:10][N:20]=[O] 10-10,20; 20-10,20",Room Temperature,Termination,recombine
"CCC(=O)[CH:20]=[C:21](C)C1C(O1)(C)C=O.[OH:10]>>CCC(=O)[CH:20]([C:21](C)C1C(O1)(C)C=O)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCCCCCC(CC)[O:20][O:21]N=O>>CCCCCCCCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(OCCO)[O:20][O:21]OO>>CC([O:20])OCCO.OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C(C)O)[O:20][O:21]N=O>>CCC(C(C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:11][O:10][O:9].[CH3:8][C:3]([CH2:2][Cl:1])([CH:6]=[CH2:7])[O:4][O:5]>>[H:11][O:5][O:4][C:3]([CH3:8])([CH2:2][Cl:1])[CH:6]=[CH2:7].[O:9][O:10] 5-5,11; 10,11-5,11; 11,10-10",Room Temperature,Propagation,abstraction
"[H:20][C:21]1(C=CC=C[C:22]1O)O.[O:10][O]>>[H:20][O:10][O].C1=C[C:21](=[C:22](C=C1)O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:6][OH:7].[CH3:1][C:2](=[CH2:3])[C:4]=[O:5].[O:8][O:9]>>[H:6][OH:7].[CH3:1][C:2](=[CH2:3])[C:4](=[O:5])[O:8][O:9] 4-4,8; 9-4,8",Room Temperature,Termination,recombine
COC(=O)C[O:20].[N:10](=O)[O:21]>>COC(=O)C[O:20].[N+:10](=O)[O-:21] 10-21,Room Temperature,Propagation,ha resonance
"[H:11][O:10][O:9][CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6].[He]>>[He].[H:11][O:10].[CH3:1][C:2](=[CH:8][O:9])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 9,10-9; 9,10-10",Light,Initiation,homolyze
"CCC1=C(C=C[CH:20]=[C:21]1O)C.[OH:10]>>CCC1=C(C=C[CH:20]([C:21]1O)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C(C)O[O:20][O:21][N+:11](=O)[O:10])OC(=O)C>>CC(C(C)O[O:20][O:10])OC(=O)C.[N+:11](=O)[O:21] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3]1([CH2:5][CH2:6][CH2:7][CH2:8][CH:2]1[OH:1])[H:9].[H:11][O:10]>>[H:4][C:3]1[CH2:5][CH2:6][CH2:7][CH2:8][CH:2]1[OH:1].[H:11][O:10][H:9] 3,9-3; 3,9-9,10; 10-9,10",Room Temperature,Propagation,abstraction
[CH3:8][CH:7]([CH3:9])[CH:5]([CH3:6])[O:4].[N:2](=[O:3])[O:1]>>[CH3:8][CH:7]([CH3:9])[CH:5]([CH3:6])[O:4].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:20][CH:21](C(C1(CO1)C)O)O.[OH:10]>>[H:20][OH:10].CC1(CO1)C([CH:21]O)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(CC)[O:20].[N+:10](=O)[O-]>>CCCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCO[O:20].[N:10]=O>>CCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][O:7][O:8].[CH3:4][CH:3]([CH3:5])[O:2][O:1]>>[H:6][O:1][O:2][CH:3]([CH3:4])[CH3:5].[O:7][O:8] 6,7-7; 6,7-1,6; 1-1,6",Room Temperature,Propagation,abstraction
"[N:20]=[O:21].C/[C:2]([CH2:1][O:10][O:11])=[CH:3]\[CH2:4]O>>C/[C:2]([CH2:1][O:10][O:11][N:20]=[O:21])=[CH:3]\[CH2:4]O 11-11,20;20-11,20",Room Temperature,Termination,recombine
"CC1=C(C(=C(C([CH:10]1)O)C)O)C.[O:20][O]>>CC1=C(C(=C([CH:10](C1O)[O:20][O])C)C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]([CH2:5][Cl:6])[CH:3]=[CH2:4].[O:7][O:8]>>[CH3:1][C:2]([CH2:5][Cl:6])([CH:3]=[CH2:4])[O:7][O:8] 2-2,7; 7-2,7",Room Temperature,Termination,recombine
"CC(COC(=O)C)[O:20][O:21]N=O>>CC(COC(=O)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:20]=[CH:21]C1=CC=CC=C1.[N+](=O)([O-])[O:10]>>C1=CC=C(C=C1)[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:1][CH2:2][O:3][CH:4]([CH3:5])[O:6].[OH:7][O:8][O:9]>>[CH3:1][CH2:2][O:3][CH:4]([CH3:5])[O:6].[OH:7].[O:8][O:9] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"CC12C=CC(C(C1O)OO2)O[O:20].[N+](=O)([O-])[O:10]>>CC12C=CC(C(C1O)OO2)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:11][O:10][CH2:9][CH:8]=[C:2]([CH2:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6]>>[H:11][O:10][CH2:9][CH:8][C:2](=[CH2:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 2,8-8;2,8-1,2;1-1,2",Room Temperature,Propagation,resonance
"[H:20][O:21][O].C(C(O[O:10])Br)Br>>[H:20][O:10]OC(CBr)Br.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][O:2][O:1].[CH3:4][C:5](=[CH:8][CH2:9][O:10][O:11])[CH2:6][Cl:7]>>[H:3][O:11][O:10][CH2:9][CH:8]=[C:5]([CH3:4])[CH2:6][Cl:7].[O:1][O:2] 11-11,3; 2,3-11,3; 2,3-2",Room Temperature,Propagation,abstraction
"CC(C(C)(C)C)[O:20].[N+:10](=O)[O-]>>CC(C(C)(C)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]OC(=O)C.[OH:10]>>[H:20][OH:10].CC(=O)O[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1(C=C[C:21](=[CH:20]C1O)C)O[O:10]>>CCC12C=C[C:21]([CH:20](C1O)[O:10]O2)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCC(C)(C)CO[O:10]>>[H:20][O:10]OCC(C)(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
